US05747448
b. Benzhydryl 2-hydroxy-L-hexanoate (H-L-norLEUA-OBH)
In 90 ml of ethyl acetate, the 2-hydroxy-L-hexanoic acid (H-L-norLEUA-OH) was dissolved. A solution (15.1 g/30 ml) of diphenyldiazomethane in ethyl acetate was added dropwise to the resulting solution, followed by stirring overnight at room temperature. The reaction mixture was adjusted to pH 2 with 2N--HCl, followed by washing thrice with 200 ml portions of a saturated aqueous solution of sodium bicarbonate. The organic layer so obtained was dried over anhydrous magnesium sulfate and then filtered. The filtrate was thereafter concentrated under reduced pressure. The residue obtained was then purified by subjecting to chromatography on a silica gel column (toluene:ethyl acetate=20:1), whereby 11.35 g of the title compound were obtained as pale yellow crystals (yield: 54.7%).

reactant | diphenyldiazomethane | 30 ml, 15.1 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | HCl | Cl | ClH
reactant | 2-hydroxy-L-hexanoic acid | OC(C(=O)O)CCCC | C6H12O3
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | Benzhydryl 2-hydroxy-L-hexanoate | 11.35 g | OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C19H22O3
